US07893069B2
A solution of 400 mg (4.0 mmol) 2-aminothiazole, 1018 mg (4.8 mmol) 5-phenylethynyl-thiophene-2-carbaldehyde, 557 mg (4.0 mmol) (2,4,4-trimethylpentane-2-yl)-isocyanide and 400 μl of a 20% aq. perchloric acid was stirred in DCM (8 ml) for 5 d at RT. A 1 molar aq. Na2CO3 sol. was subsequently added. The phases were separated and the aqueous phase was extracted with DCM. The collected organic phases were washed with brine and dried over MgSO4. After filtering and removal of the solvent in a vacuum, a CC (AE/hexane 1:4) was performed with the residue, whereby 637 mg (1.47 mmol, 37%) 6-(5-(phenylethynyl)thiophene-2-yl)-N-(2,4,4-trimethylpentane-2-yl)imidazo[2,1-b]thiazole-5-amine was obtained.

reactant | 2-aminothiazole | 4.0 mmol, 400 mg | NC=1SC=CN1 | C3H4N2S
reactant | 5-phenylethynyl-thiophene-2-carbaldehyde | 4.8 mmol, 1018 mg | C1(=CC=CC=C1)C#CC1=CC=C(S1)C=O | C13H8OS
reactant | (2,4,4-trimethylpentane-2-yl)-isocyanide | 4.0 mmol, 557 mg | CC(C)(CC(C)(C)C)[N+]#[C-] | C9H17N
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | Na2CO3 | 1 molar | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
product | 6-(5-(phenylethynyl)thiophene-2-yl)-N-(2,4,4-trimethylpentane-2-yl)imidazo[2,1-b]thiazole-5-amine | 1.47 mmol, 637 mg, 37% | C1(=CC=CC=C1)C#CC1=CC=C(S1)C=1N=C2SC=CN2C1NC(C)(CC(C)(C)C)C | C25H27N3S2
